US07960395B2
e) 5-[7-{[(1R)-1-(Hydroxymethyl)-3-methylbutyl]amino}-[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one-5-yldisulfanyl]-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one
A mixture of conc. hydrochloric acid (20 mL) and water (20 mL) was added to a solution of (2R)-2-{5-[7-((1R)-1-hydroxymethyl-3-methyl-butylamino)-2-methoxy-thiazolo[4,5-d]pyrimidin-5-yldisulfanyl]-2-methoxy-thiazolo[4,5-d]pyrimidin-7-ylamino}-4-methyl-pentan-1-ol (1.5 g, 2.4 mmol) in 1,4-dioxane (20 mL). The solution was then stirred at 45° C. for 18 h. The solvent was evaporated off and the residue was taken up in ethyl acetate. Any undissolved residue was collected by filtration. The filtrate was subjected to flash column chromatography (eluent ethyl acetate:methanol 95:5). The solid residue and the product collected from the chromatography were pooled together to give the title compound (600 mg, 42% yield).

reactant | hydrochloric acid | 20 mL | Cl | ClH
reactant | water | 20 mL | O | H2O
reactant | (2R)-2-{5-[7-((1R)-1-hydroxymethyl-3-methyl-butylamino)-2-methoxy-thiazolo[4,5-d]pyrimidin-5-yldisulfanyl]-2-methoxy-thiazolo[4,5-d]pyrimidin-7-ylamino}-4-methyl-pentan-1-ol | 2.4 mmol, 1.5 g | OC[C@@H](CC(C)C)NC=1C2=C(N=C(N1)SSC=1N=C(C3=C(N1)N=C(S3)OC)N[C@@H](CO)CC(C)C)N=C(S2)OC | C24H34N8O4S4
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-[7-{[(1R)-1-(Hydroxymethyl)-3-methylbutyl]amino}-[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one-5-yldisulfanyl]-7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one | 600 mg, 42% yield | OC[C@@H](CC(C)C)NC=1C2=C(N=C(N1)SSC=1N=C(C3=C(N1)NC(S3)=O)N[C@H](CC(C)C)CO)NC(S2)=O | C22H30N8O4S4
